US08461134B2
(E)-N-(3-(2-ethoxyvinyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide (47 mg) was hydrogenated with Pd/C (10%, 20 mg) in 7N NH3 in methanol (6 ml) at 50 psi for 4 hrs. The catalyst was filtered and filtrate was concentrated to dryness. The crude product was purified by prep-HPLC to give 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-ethoxyethyl)benzenesulfonamide (18 mg). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.97 (s, 1H), 9.15 (s, 1H), 7.52 (d, J=8.8 Hz, 1H), 7.39 (d, J=1.9 Hz, 1H), 7.21 (d, J=8.4 Hz, 1H), 7.10 (dd, J=2.2, 8.2 Hz, 1H), 6.42 (d, J=2.2 Hz, 1H), 6.34 (dd, J=2.0, 8.4 Hz, 1H), 5.84 (brs, 2H), 4.84 (s, 2H), 3.50 (t, J=7.2 Hz, 2H), 3.40 (q, J=7.1 Hz, 2H), 3.03 (t, J=7.1 Hz, 2H), 1.08 (t, J=7.0 Hz, 3H). MS (ESI) m/z=375 (M−1).

reactant | (E)-N-(3-(2-ethoxyvinyl)-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | 47 mg | C(C)O/C=C/C=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C19H18BF3N2O6S
solvent | NH3 | 7N | N | H3N
solvent | methanol | 6 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-(2-ethoxyethyl)benzenesulfonamide | 18 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CCOCC | C17H21BN2O5S
